US04283532
Preparation of N-benzyl-N-methyl-o-(2,6-dichloroanilino)phenylacetamide
A mixture of 10.0 g (0.031 mole) of N-benzyl-N-methyl-o-bromophenylacetamide having a boiling point of 202° to 203° C. under 0.5 mmHg, 6.1 g (0.037 mole) of 2,6-dichloroaniline, 5.2 g (0.037 mole) of anhydrous potassium carbonate, 2.6 g of cuprous bromide and 2.6 g of copper powder was reacted in 150 ml of xylene for 72 hours to obtain 7.5 g of a colorless needle having a melting point of 85° to 86° C. The yield was 56.0%.

reactant | N-benzyl-N-methyl-o-bromophenylacetamide | 0.031 mole, 10.0 g | C(C1=CC=CC=C1)N(C(CC1=C(C=CC=C1)Br)=O)C | C16H16BrNO
reactant | 2,6-dichloroaniline | 0.037 mole, 6.1 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | potassium carbonate | 0.037 mole, 5.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | copper | 2.6 g | [Cu] | Cu
product | N-benzyl-N-methyl-o-(2,6-dichloroanilino)phenylacetamide | 7.5 g, yield was 56.0% | C(C1=CC=CC=C1)N(C(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O)C | C22H20Cl2N2O
